US07592457B2
4,5-dichloro-2-(2-phenyl-propionylamino)-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-phenyl-propionic acid (2.00 g, 13.3 mmol), SOCl2 (2.28 mL, 40.0 mmol), and 2-amino-4,5-dichloro-benzoic acid methyl ester (1.95 g, 8.88 mmol). After normal workup, the pure objective compound (2.97 g, 95%) was obtained as pale yellow solid by a flash column chromatography (n-hexane:EtOAc=20:1): 1H NMR (200 MHz, CDCl3) δ 1.59 (d, J=7.1 Hz, 3H, CH3), 3.70-3.89 (m, 4H, CO2CH3& CH), 7.28-7.42 (m, 5H, ArH), 8.03 (s, 1H, ArH), 8.99 (s, 1H, ArH), 11.00 (br s, 1H, NH).

reactant | 2-phenyl-propionic acid | 13.3 mmol, 2.00 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | SOCl2 | 40.0 mmol, 2.28 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino-4,5-dichloro-benzoic acid methyl ester | 8.88 mmol, 1.95 g | COC(C1=C(C=C(C(=C1)Cl)Cl)N)=O | C8H7Cl2NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4,5-dichloro-2-(2-phenyl-propionylamino)-benzoic acid methyl ester | 2.97 g, 95% | COC(C1=C(C=C(C(=C1)Cl)Cl)NC(C(C)C1=CC=CC=C1)=O)=O | C17H15Cl2NO3
